datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27])([H:9])([H:10])[H:11],40.6685
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])[H:8].[H:9][H:22],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])=[C:5]([C:6]([H:10])([H:11])[H:12])[H:9])[H:7].[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([C:5]([C:6]([H:10])([H:11])[H:12])[H:9])[H:13])[H:7],18.4514
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([H:11])([H:12])[H:13],13.3888
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[H:13])[H:7],4.8116
[H:0].[O:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[H:0][O:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:24]([C:23]([H:31])([H:32])[H:33])([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])[H:14])[H:13])([H:11])[H:12],41.4216
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([C:15]([H:21])([H:22])[H:23])[H:20])[H:19])[H:7])([H:5])[H:6],73.7639
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27])[H:14])[H:13])([H:11])[H:12],54.0573
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:6]([C:5]([C:4]([C:3](=[C:2]([H:11])[H:12])[H:14])([H:15])[H:16])([H:17])[H:18])([H:19])[H:20])([H:10])[H:13])([H:7])([H:8])[H:9],297.064
[C:0](=[C:1]([O:2][O:3][H:7])[H:6])([H:4])[H:5].[O:8]>>[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[H:7][O:8],19.874
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])=[C:10]([c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:17])[H:18])[H:19])([C:9]([H:20])([H:21])[H:22])[C:10]([c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:23])[H:3],43.8902
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:30][O:31][H:32],62.395992
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:7],2.25936
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]([c:15]1[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:21])[H:7])([H:5])[H:6].[S:14][c:15]1[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26],12.552
